US05418146
1.19 g (5.0 mmol) of N-benzoyl-L-aspartic acid and 1.79 g (10.0 mmol) of L-phenylalanine methyl ester were added to a flask which contained 50 ml of 50% acetonitrile in water containing 5 mM CaCl2. The pH of the solution was adjusted to 6.0 with 10M NaOH. The solution was admixed with 4 g of suction filtered immobilized enzyme prepared above. Thereafter, the reaction were carried out with stirring for 4 hours at 40° C. After completion of the reaction, the immobilized enzyme was separated by filtration. The pH of the filtrate was then adjusted to 3.7 by 10 molar hydrochloric acid. Resulting slurry was filtered and washed with water to give N-benzoyl-L-aspartyl-L-phenylalanine methyl ester.

reactant | N-benzoyl-L-aspartic acid | 5.0 mmol, 1.19 g | C(C1=CC=CC=C1)(=O)N[C@@H](CC(=O)O)C(=O)O | C11H11NO5
reactant | L-phenylalanine methyl ester | 10.0 mmol, 1.79 g | COC([C@@H](N)CC1=CC=CC=C1)=O | C10H13NO2
reactant | acetonitrile | 50 ml | C(C)#N | C2H3N
reactant | NaOH | 10M | [OH-].[Na+]
solvent | water | 5 mM | O | H2O
product | N-benzoyl-L-aspartyl-L-phenylalanine methyl ester | COC([C@@H](NC([C@@H](NC(C1=CC=CC=C1)=O)CC(O)=O)=O)CC1=CC=CC=C1)=O | C21H22N2O6
